US07612067B2
Preparation of 3-(3-chloro-5-thiazol-4-yl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a 0° C. solution of 3-(5-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.60 g, 1.45 mmol) and THF (2 mL) is added 0.05 g/mL of Reike® Zn (3.80 mL, 2.91 mmol). The solution is heated at a reflux for 1 hour, and the excess Zn allowed to settle for 1 hour at ambient temperature. The solution is transferred to a flask of 4-bromo-thiazole (Kelly, T. et al. Tetrahedron, Lett. 1995, 51, 9293) (0.29 g, 1.74 mmol). PdCl2(dppf) (0.027 g, 0.036 mmol) is added and the solution heated at 65° C. overnight, diluted with EtOAc (40 mL), washed with sat. NH4Cl (30 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (15%-20% EtOAc/hexane gradient) followed by ISCO column chromatography (100% Et2O) to furnish the title compound (0.098 g, 0.24 mmol, 16%). 1H NMR (CDCl3) δ 0.88 (d, J=7.5 Hz, 6H), 1.74-1.92 (m, 4H), 2.52 (s, 3H), 2.53 (s, 3H), 3.28-3.38 (m, 1H), 6.70 (s, 1H), 7.45 (s, 1H), 7.49 (d, J=2.0 Hz, 1H), 8.85 (d, J=2.0 Hz, 1H). LC/MS (m/z): calcd. for C20H21ClN4S2 (M+H)+: 417.1; found: 417.3.

reactant | 3-(5-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.45 mmol, 0.60 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Cl | C17H19BrClN3S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | 4-bromo-thiazole | BrC=1N=CSC1 | C3H2BrNS
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
catalyst | Zn | 2.91 mmol, 3.80 mL | [Zn] | Zn
catalyst | PdCl2(dppf) | 0.036 mmol, 0.027 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(3-chloro-5-thiazol-4-yl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.24 mmol, 0.098 g, 16% | ClC1=C(SC(=C1)C=1N=CSC1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C20H21ClN4S2
